US07691836B2
Preparation of (11β,16α,17β)-17-cyclopropylcarbonyl-16-methyl-11-[4-(4-pyridinyl)phenyl]estra-4,9-dien-3-one
(11β,16α,17β)-11-(4-Bromophenyl)-17-cyclopropylcarbonyl-16-methylestra-4,9-dien-3-one and 4-pyridinylboronic acid were applied as described in example 1 step h. Purification by HPLC followed by crystallisation (acetonitrile/water) gave the product (44% yield). 1H NMR (400 MHz, CDCl3): δ 0.33 (s, 3H), 0.84-2.85 (m, 24H), 4.46 (d, J=7 Hz, 1H), 5.81 (s, 1H), 7.26-7.30 (m, 2H), 7.48-7.50 (m, 2H), 7.55-7.59 (m, 2H), 8.63-8.65 (m, 2H).

reactant | (11β,16α,17β)-11-(4-Bromophenyl)-17-cyclopropylcarbonyl-16-methylestra-4,9-dien-3-one | BrC1=CC=C(C=C1)[C@@H]1C2=C3CCC(C=C3CC[C@H]2[C@@H]2C[C@H]([C@@H]([C@@]2(C)C1)C(=O)C1CC1)C)=O | C29H33BrO2
reactant | 4-pyridinylboronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | (11β,16α,17β)-17-cyclopropylcarbonyl-16-methyl-11-[4-(4-pyridinyl)phenyl]estra-4,9-dien-3-one | 44% yield | C1(CC1)C(=O)[C@@H]1[C@]2(C)[C@@H](C[C@H]1C)[C@@H]1CCC3=CC(CCC3=C1[C@H](C2)C2=CC=C(C=C2)C2=CC=NC=C2)=O | C34H37NO2
